US07960394B2
6-Bromo-3-methyl-2-[2-methoxy-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 77 but using 5-bromoanthranilic acid, methylamine, 4-hydroxy-2-methoxybenzaldehyde and 1-(3-bromopropyl)pyrrolidinium bromide.

reactant | 5-bromoanthranilic acid | BrC1=CC=C(C(C(=O)O)=C1)N | C7H6BrNO2
reactant | methylamine | CN | CH5N
reactant | 4-hydroxy-2-methoxybenzaldehyde | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | 1-(3-bromopropyl)pyrrolidinium bromide | [Br-].BrCCC[NH+]1CCCC1
product | 6-Bromo-3-methyl-2-[2-methoxy-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone | BrC=1C=C2C(N(C(=NC2=CC1)C1=C(C=C(C=C1)OCCCN1CCCC1)OC)C)=O | C23H26BrN3O3
